US04125732
{p-[3-(p-Chlorophenoxy)propoxy]phenyl}acetic acid
To a solution of 2.58 g of p-chlorophenol in 25 ml of ethanol is added 2.64 g of 85% potassium hydroxide solution, 3.6 g of potassium iodide and 4.6 g of [p-(3-chloropropoxy)phenyl]acetic acid. The mixture is refluxed for 18 hours, diluted with water, acidified with concentrated HCl and filtered to give 4.74 g of crystals. Recrystallization from acetic acid-water gives 3.85 g of white crystals, mp slowly melts 131°-150° C.

reactant | p-chlorophenol | 2.58 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium hydroxide | 2.64 g | [OH-].[K+]
reactant | potassium iodide | 3.6 g | [I-].[K+]
reactant | [p-(3-chloropropoxy)phenyl]acetic acid | 4.6 g | ClCCCOC1=CC=C(C=C1)CC(=O)O | C11H13ClO3
reactant | HCl | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | {p-[3-(p-Chlorophenoxy)propoxy]phenyl}acetic acid | 4.74 g | ClC1=CC=C(OCCCOC2=CC=C(C=C2)CC(=O)O)C=C1 | C17H17ClO4
